US09283285B2
A solution of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC*HCl) and FA in anhydrous DMSO was prepared and stirred at room temperature until FA was well dissolved (1 h). Chitosan was dissolved in 0.1 M hydrochloric acid, to produce a solution with a concentration of 1 mg/ml, and then adjusted to pH 5.5 with 0.10 M sodium hydroxide solution. After the dropwise addition of EDC*HCl (m=5.1 mg in 1 ml distilled water) to the chitosan solution (V=20 ml), the reaction mixture was stirred for 10 min. Then folic acid (m=8.5 mg in dimethyl sulfoxide, V=1 ml) was added to the reaction mixture. The resulting mixture was stirred at room temperature in the dark for 24 h. It was brought to pH 9.0 by drop wise addition of diluted aqueous NaOH and was washed three times with aqueous NaOH, and once with distilled water. The polymer was isolated by lyophilization.

reactant | sodium hydroxide | 0.10 M | [OH-].[Na+]
reactant | EDC | 1 ml, 5.1 mg
reactant | folic acid | 1 ml, 8.5 mg | C(CC[C@@H](C(=O)O)NC(=O)C1=CC=C(NCC2=CN=C3N=C(N)NC(=O)C3=N2)C=C1)(=O)O | C19H19N7O6
reactant | DMSO | CS(=O)C | C2H6OS
solvent | hydrochloric acid | 0.1 M | Cl | ClH
product | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C | InChI=1S/C8H17N3.ClH/c1-4-9-8-10-6-5-7-11(2)3;/h4-7H2,1-3H3;1H
